US09233956B2
Step B: N-{3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-fluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluoroaniline (70 mg, 0.213 mmol) and 3-fluorobenzenesulfonyl chloride (124 mg, 0.639 mmol), the title compound was obtained as a solid (76 mg, 73% yield). MS (ESI): 488 [M+H]+.

reactant | 3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluoroaniline | 0.213 mmol, 70 mg | CC(C)(C)C=1SC(=C(N1)C=1C(=C(N)C=CC1)F)C1=NC=NC=C1 | C17H17FN4S
reactant | 3-fluorobenzenesulfonyl chloride | 0.639 mmol, 124 mg | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-fluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)F)F)C1=NC=NC=C1 | C23H20F2N4O2S2
